AD8066 model used

************************************************************************************************************

* AD8066 Spice Model

* Description: Amplifier

* Generic Desc: Dual low-cost high-speed FET input amp

* Developed by: VC

* Revision History: 08/10/2012 - Updated to new header style

* 1.0

* Copyright 2012 by Analog Devices, Inc.

*

* Refer to http://www.analog.com/Analog_Root/static/techSupport/designTools/spiceModels/license/spice_general.html for License Statement.

* Use of this model indicates your acceptance with the terms and provisions in the License Statement.

*

* BEGIN Notes:

*

* Not Modeled:

*       Distortion is not characterized

*

* Parameters modeled include:

*       Open loop gain and phase vs. frequency

*       Output impedance vs. frequency

*       Output clamping voltage and current

*       FET Input common mode range

*       Slew rate

*       Output currents are reflected to V supplies

*       Vos is static and will not vary

*

* END Notes

*

* Node assignments

*              non-inverting input

*              | inverting input

*              | | positive supply

*              | | |  negative supply

*              | | |  |  output

*              | | |  |  |

.SUBCKT AD8066 1 2 99 50 30

* FET INPUT STAGE

Vos 9 2 1.5m

Cd 1 2 4.5p

Ccm1 1 0 2.1p

Ccm2 2 0 2.1p

J1 5 1 10 NMOD 

J2 6 9 11 NMOD

R3 99 5 1132

R4 99 6 1132

R5 10 4 390

R6 11 4 390

I11 4 50 0.87e-3

* COMMON-MODE GAIN NETW0RK

*POLE AT 40 MHz

Ecm 80 15 POLY(2) 2 15 1 15 0 .5 .5

*C4 82 85 3.54e-12

*R8 80 82 1k

*ZERO AT 40 kHz

Gcm1 15 81 80 15 4e-6

Lcm1 81 82 2e-3

Rcm1 82 15 1k

*ZERO AT 40 MHz

*Gcm2 15 83 81 15 1e-3

*Lcm2 83 84 3.5e-6

*Rcm2 84 15 1k

*ZERO AT 40 MHz

*Gcm3 15 85 83 15 1e-3

*Lcm3 85 86 3.5e-6

*Rcm3 86 15 1k

*ZERO AT 40 MHz

*Gcm4 15 91 85 15 1e-3

*Lcm4 91 92 3.5e-6

*Rcm4 92 15 1k

*POLE AT 30 MHz

*Gcm5 15 87 91 15 1e-3

*Ccm5 87 15 5.6e-12

*Rcm5 87 15 1k

*POLE AT 30 MHz

*Gcm6 15 88 87 15 1e-3

*Ccm6 88 15 5.6e-12

*Rcm6 88 15 1k

*POLE AT 30 MHz

*Gcm7 15 89 88 15 1e-3

*Ccm7 89 15 5.6e-12

*Rcm7 89 15 1k

* GAIN STAGE & POLE AT 17 kHz

Ecc 98 0 99 0 1

Ess 52 0 50 0 1

Eref 15 0 POLY(2) 99 0 50 0 0 .5 .5

G1 13 15 5 6 0.6

R7 13 15 3.125k

C3 13 15 3n

V1 98 14 1

V2 16 52 1

D1 13 14 DX

D2 16 13 DX

* POLE AT 334 MHz

G2 15 43 13 15 3.777m

R10 15 43 265

C5 15 43 1.8p

* POLE AT 665 MHz

G3 15 53 43 15 7.54m

R11 15 53 133

C6 15 53 1.8p

*POLE AT 665 MHz

G4 15 63 53 15 7.54m

R12 15 63 133

C7 15 63 1.8p

* BUFFER STAGE

Gbuf 15 32 63 15 1e-3

Rbuf 32 15 1000

* OUTPUT STAGE

Vo1 99 90 0

Vo2 51 50 0

R18 25 90 .02

R19 25 51 .02

Vcd 25 30 0

G6 25 90 99 32 50

G7 51 25 32 50 50

V4 26 25 -0.82

V5 25 27 -0.82

D5 32 26 Dx

D6 27 32 DX

Fo1 15 70 vcd 1

D7 70 71 DX

D8 72 70 DX

Vi1 71 15 0

Vi2 15 72 0

Erefq 96 0 30 0 1

Iq 99 50 5.7m

Fq1 96 99 POLY(2) Vo1 Vi1 0 1 -1

Fq2 50 96 POLY(2) Vo2 Vi2 0 1 -1

.MODEL NMOD NJF VTO=0.13 BETA=100 IS=2.4e-13

.MODEL DX D(IS=1e-15)

.ENDS

***************************************************************************************************